US09282743B2
Step 5: Preparation of 3-Methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.1)
A degassed suspension of 5-methoxy-[1,2,5]triazepane hydrochloride salt (350 mg, 1.71 mmol) and triethylamine (1.0 ml, 726 mg, 7.17 mmol) in xylene (8 ml) was stirred under argon at 60° C. for one hour. After further addition of 2-(2,4,6-trimethyl-phenyl)-malonic acid diethyl ester (482 mg, 1.73 mmol), the reaction mixture was heated at 150° C. (oil bath temperature) for 18 hours. The cooled reaction mixture was poured on ice, the pH made alkaline by addition of 5N aqueous sodium hydroxide, the aqueous layer extracted twice with ethyl acetate and the combined organic layers discarded. The aqueous alkaline phase was acidified with cooling to pH 2-3 by addition of a 4N HCl solution and the product thoroughly extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The base-acidification workup protocol is repeated a second time. Yield: 24 mg of 3-methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (compound P2.1) as a beige solid.

reactant | 5-methoxy-[1,2,5]triazepane hydrochloride salt | 1.71 mmol, 350 mg | Cl.CON1CCNNCC1
reactant | triethylamine | 7.17 mmol, 1.0 ml, 726 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(2,4,6-trimethyl-phenyl)-malonic acid diethyl ester | 1.73 mmol, 482 mg | C(C)OC(C(C(=O)OCC)C1=C(C=C(C=C1C)C)C)=O | C16H22O4
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | xylene | 8 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione | CON1CCN2N(CC1)C(C(C2=O)C2=C(C=C(C=C2C)C)C)=O | C17H23N3O3
